US07074777B2
(2) Synthesis of 17-(2-ethyl-2-hydroxybutoxymethyl)-1α,3β-dihydroxyandrosta-5,7,16-triene
1α,3β-Bis(tert-butyldimethylsilyloxy)-17-{2-ethyl-2-hydroxybutoxymethyl}androsta-5,7,16-triene (139 mg, 0.216 mmol), a 1M tetra-n-butylammonium fluoride tetrahydrofuran solution (1.3 ml, 1.3 mmol) and tetrahydrofuran (3 ml) were subjected to reaction using a procedure similar to that of Example 5(2) (4 hours), worked up and the thus obtained residue was purified by preparative thin layer chromatography (1 sheet (0.5 mm thickness), dichloromethane:ethanol=10:1, developed three times) to give the titled compound (64.4 mg, 72%) as a colorless oil.

reactant | 1α,3β-Bis(tert-butyldimethylsilyloxy)-17-{2-ethyl-2-hydroxybutoxymethyl}androsta-5,7,16-triene | 0.216 mmol, 139 mg | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CC=C([C@@]4(C)CC[C@@H]3[C@@]12C)COCC(CC)(O)CC)O[Si](C)(C)C(C)(C)C | C38H68O4Si2
reactant | tetra-n-butylammonium fluoride tetrahydrofuran | 1.3 mmol, 1M, 1.3 ml | O1CCCC1.[F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | 17-(2-ethyl-2-hydroxybutoxymethyl)-1α,3β-dihydroxyandrosta-5,7,16-triene | 64.4 mg, 72% | C(C)C(COCC=1[C@]2(C)[C@@H](CC1)C1=CC=C3C[C@H](C[C@@H]([C@]3(C)[C@H]1CC2)O)O)(CC)O | C26H40O4
